US08012966B2
(S)—N-{5-Fluoro-3-[3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-propionamide
The title compound was prepared under the same conditions as described in Example 13 with 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and (S)—N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-propionamide as starting materials to give (S)—N-{5-fluoro-3-[3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-propionamide (48 mg, 67.9%) as a yellow solid.

reactant | 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=O | C15H21N3O2
reactant | (S)—N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-propionamide | FC=1C=C2CC(NC2=CC1NC([C@H](C)O)=O)=O | C11H11FN2O3
product | (S)—N-{5-fluoro-3-[3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-propionamide | 48 mg, 67.9% | FC=1C=C2C(C(NC2=CC1NC([C@H](C)O)=O)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCC1)=O)C | C26H30FN5O4
